US06521643B1
To a solution of N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-trifluoromethylpyridin-2-yl)phenyl)guanidine (200 mg) in dichloromethane (2 ml) was added 4N hydrogen chloride in 1,4-dioxane (4 ml), and the mixture was stirred at room temperature for 18 hours. The solvent was evaporated under reduced pressure. To the residue was added 5% ethanol in ethyl acetate (100 ml), and the precipitate was collected by filtration and dried under reduced pressure to give 3-(3-trifluoromethylpyridin-2-yl) phenylguanidine dihydrochloride (111 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-trifluoromethylpyridin-2-yl)phenyl)guanidine | 200 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC=C1C(F)(F)F)NC(=O)OC(C)(C)C | C23H27F3N4O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 3-(3-trifluoromethylpyridin-2-yl) phenylguanidine dihydrochloride | 111 mg | Cl.Cl.FC(C=1C(=NC=CC1)C=1C=C(C=CC1)NC(=N)N)(F)F | InChI=1S/C13H11F3N4.2ClH/c14-13(15,16)10-5-2-6-19-11(10)8-3-1-4-9(7-8)20-12(17)18;;/h1-7H,(H4,17,18,20);2*1H
